US09284286B2
To a solution of 3-[[3,3-difluoro-3-(4-fluorophenyl)-propyl]sulfanyl]-pyridine-4-carboxylic acid methyl ester (0.33 g, 0.96 mmol) in EtOH (10 ml) are added sodium hydroxide (0.15 g, 3.87 mmol) and water (10 ml). The reaction mixture is stirred at 80° C. for 1 h. After completion of the reaction, the solvent is evaporated and the residue is diluted with water (10 ml). The aqueous layer is acidified with 2M hydrochloric acid to pH 3 and extracted with EtOAc (3×20 ml). The combined organic layers are washed with water (20 ml), brine (20 ml), dried over anhydrous sodium sulfate and evaporated to get the crude 3-[[3,3-difluoro-3-(4-fluorophenyl)-propyl]sulfanyl]-pyridine-4-carboxylic acid (0.26 g, 0.8 mmol, 82%), which is used in the next step without further purification.

reactant | 3-[[3,3-difluoro-3-(4-fluorophenyl)-propyl]sulfanyl]-pyridine-4-carboxylic acid methyl ester | 0.96 mmol, 0.33 g | COC(=O)C1=C(C=NC=C1)SCCC(C1=CC=C(C=C1)F)(F)F | C16H14F3NO2S
reactant | sodium hydroxide | 3.87 mmol, 0.15 g | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | EtOH | 10 ml | CCO | C2H6O
product | 3-[[3,3-difluoro-3-(4-fluorophenyl)-propyl]sulfanyl]-pyridine-4-carboxylic acid | 0.8 mmol, 0.26 g, 82% | FC(CCSC=1C=NC=CC1C(=O)O)(C1=CC=C(C=C1)F)F | C15H12F3NO2S
